US04933350
A mixture of methyl 2-(4-fluorobenzylidene)-3-oxopentanoate (52.0 g), benzaldehyde (25.4 g), triethylamine (22 g), 3,4-dimethyl-5-(2-hydroxyethyl)thiazolium iodide (6.3 g) and ethanol (100 ml) was heated at reflux under nitrogen for 16 hours. The cooled mixture was diluted with dichloromethane, and washed with dilute hydrochloric acid (2N), with dilute aqueous sodium bicarbonate solution, and with water, and dried over magnesium sulphate. The solution was concentrated in vacuo and the residue was dissolved in hot methanol. The resulting off-white solid was filtered off, to give methyl 2-(1-oxopropyl)-3-(4-fluorophenyl)-4-phenyl-4-oxobutanoate (21.5 g), m.p. 104°-109° C. [Elemental analysis: C,70.1;H,5.42;F,5.58%; calculated: C,70.15;H,5.60; F,5.55%; I.R. 1749, 1738, 1716, 1708, 1679, 1508, 761, 697cm-1 [N.M.R. (in CDCl3): 0.81 and 1.08 (3H, two triplets, J=7 Hz), 1.80-2.04 and 2.46-2.80 (2H, two sets of multiplets), 3.53 and 3.68 (3H, two singlets), 4.58 and 4.62 (1H, two doublets, J=10 Hz), 5.39 and 5.42 (1H, two doublets, J=10 Hz), 6.96 (2H, t, J=8 Hz), 7.20- 7.60 (5H, m), 7.90-8.00 (2H, m)].

reactant | methyl 2-(4-fluorobenzylidene)-3-oxopentanoate | 52.0 g | FC1=CC=C(C=C(C(=O)OC)C(CC)=O)C=C1 | C13H13FO3
reactant | benzaldehyde | 25.4 g | C(C1=CC=CC=C1)=O | C7H6O
reactant | triethylamine | 22 g | C(C)N(CC)CC | C6H15N
reactant | ethanol | 100 ml | C(C)O | C2H6O
catalyst | 3,4-dimethyl-5-(2-hydroxyethyl)thiazolium iodide | 6.3 g | [I-].C[N+]1=CSC(=C1C)CCO
solvent | dichloromethane | ClCCl | CH2Cl2
product | methyl 2-(1-oxopropyl)-3-(4-fluorophenyl)-4-phenyl-4-oxobutanoate | 21.5 g | O=C(CC)C(C(=O)OC)C(C(=O)C1=CC=CC=C1)C1=CC=C(C=C1)F | C20H19FO4
